US08017611B2
To a mixture of 2-amino-5-bromo-pyridine-3-carboxylic acid (1 g) and 6-amino-2,3-difluoro-phenol (0.669 g) placed in a round bottom flask was added polyphosphoric acid (10 g). The mixture was heated at 200° C. for 5 hours. A homogenous black mixture was obtained. The mixture was diluted in water and neutralizing to pH 8 with NaOH 2N. The heterogeneous mixture was diluted with dichloromethane. The insoluble was filtered. The organic phase was separated. The aqueous phase was extracted twice with dichloromethane. The combined organic phases were washed with brine, dried on sodium sulfate, evaporated and dried to afford 5-bromo-3-(6,7-difluoro-1,3-benzoxazol-2-yl)pyridin-2-amine (0.338 g). NMR Spectrum: (DMSOd6) 7.54 (ddd, 1H), 7.70 (ddd, 1H), 7.79 (bs, 2H), 8.34 (d, 1H), 8.38 (d, 1H); Mass spectrum: M+H+ 326-328

reactant | 2-amino-5-bromo-pyridine-3-carboxylic acid | 1 g | NC1=NC=C(C=C1C(=O)O)Br | C6H5BrN2O2
reactant | 6-amino-2,3-difluoro-phenol | 0.669 g | NC1=CC=C(C(=C1O)F)F | C6H5F2NO
solvent | water | O | H2O
solvent | NaOH | 2N | [OH-].[Na+]
solvent | dichloromethane | ClCCl | CH2Cl2
product | 5-bromo-3-(6,7-difluoro-1,3-benzoxazol-2-yl)pyridin-2-amine | 0.338 g | BrC=1C=C(C(=NC1)N)C=1OC2=C(N1)C=CC(=C2F)F | C12H6BrF2N3O
